US07855194B2
Step 1: 1-Benzoyl-3-(3,4,5-trimethoxy-phenyl)-urea
A mixture of benzamide (0.5 g, 4.13 mmol, 1.0 equiv) and 5-isocyanato-1,2,3-trimethoxy-benzene (1.30 g, 6.19 mmol, 1.5 equiv; commercially available) was heated by microwave irradiation to 140° C. for 30 min. Recrystallization from ethanol provided 1.04 g (76%) of the title compound. MS (ISP): 331.3 [M+H]+.

reactant | benzamide | 4.13 mmol, 0.5 g, 1.0 equiv | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | 5-isocyanato-1,2,3-trimethoxy-benzene | N(=C=O)C=1C=C(C(=C(C1)OC)OC)OC | C10H11NO4
product | 1-Benzoyl-3-(3,4,5-trimethoxy-phenyl)-urea | 1.04 g, 76% | C(C1=CC=CC=C1)(=O)NC(=O)NC1=CC(=C(C(=C1)OC)OC)OC | C17H18N2O5
